US04496725
To 112 g of 2-chloro-6,7-dimethoxy-3-quinolinecarboxaldehyde oxime was added 1000 ml of acetic anhydride. The mixture was stirred at reflux for 3 hours and then cooled to room temperature. The precipitate which formed was separated by filtration, washed with hot ethanol, and then dried to give 2-chloro-6,7-dimethoxy-3-quinolinecarbonitrile melting at about 223.5°-224.5° C.

reactant | 2-chloro-6,7-dimethoxy-3-quinolinecarboxaldehyde oxime | 112 g | ClC1=NC2=CC(=C(C=C2C=C1C=NO)OC)OC | C12H11ClN2O3
solvent | acetic anhydride | 1000 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | ClC1=NC2=CC(=C(C=C2C=C1C#N)OC)OC | C12H9ClN2O2
